US06800629B2
In 10 mL of toluene was dissolved 1.0 g of 3-(benzyloxy)-6-fluoro-2-pyrazinecarbonitrile. Then, 0.64 g of aluminum chloride was added to the solution at an ice-cooled temperature, and the mixture thus formed was stirred at room temperature for 2 hours. Then, 10 mL of water was added to the reaction mixture, the aqueous layer was separated, and the organic layer was extracted with two 2 mL portions of water. The aqueous layers were united and extracted with two 5 mL portions of ethyl acetate. The organic layer thus obtained was washed with saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. Thus, 0.51 g of 6-fluoro-3-oxo-3,4-dihydro-2-pyrazinecarbonitrile was obtained as a yellow-colored solid product.

reactant | 3-(benzyloxy)-6-fluoro-2-pyrazinecarbonitrile | 1.0 g | C(C1=CC=CC=C1)OC=1C(=NC(=CN1)F)C#N | C12H8FN3O
reactant | aluminum chloride | 0.64 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 10 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-fluoro-3-oxo-3,4-dihydro-2-pyrazinecarbonitrile | 0.51 g | FC1=CNC(C(=N1)C#N)=O | C5H2FN3O
